US04146384
27 g (0.1 mol) of 2-(2-fluorobenzyloxy)-butane-1,4-dicarboxylic acid dimethyl ester were added dropwise, at 10° C., to a dispersion of 4.5 g of lithium aluminium hydride in 100 ml of absolute ether. After completion of the addition, the mixture was heated for 1 hour under reflux, and was cooled and hydrolysed with 35 ml of ice-water. After decanting the ether phase, the residue was repeatedly digested with ethanol. The combined organic phases were freed from the solvent and the residue was taken up in chloroform and chromatographed on a short silica gel column. The eluate was freed from the solvent and the residue was distilled. 7.5 g (35.5% of theory) of 2-(2-fluorobenzyloxy)-butane-1,4-diol of boiling point 155° C./0.5 mm Hg were obtained.

reactant | 2-(2-fluorobenzyloxy)-butane-1,4-dicarboxylic acid dimethyl ester | 0.1 mol, 27 g | COC(=O)CC(CCC(=O)OC)OCC1=C(C=CC=C1)F | C15H19FO5
reactant | lithium aluminium hydride | 4.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ether | 100 ml | CCOCC | C4H10O
product | 2-(2-fluorobenzyloxy)-butane-1,4-diol | 7.5 g, 35.5% | FC1=C(COC(CO)CCO)C=CC=C1 | C11H15FO3
